US08809324B2
C-(4-Bromophenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide
While cooling with ice, 20.0 g of 4-bromobenzylsulfonyl chloride were initially charged in 200 ml of dichloromethane, and a solution of 24 ml of 2,4-dimethoxybenzylamine in 100 ml of dichloromethane was slowly added dropwise. For improved stirrability, a further 100 ml of dichloromethane were added, and the reaction mixture was allowed to come to room temperature. After stirring for 2 hours, the reaction mixture was washed with 100 ml of water, with 100 ml of 0.2 N aqueous hydrochloric acid, with 100 ml of saturated aqueous sodium hydrogencarbonate solution and finally once more with 100 ml of water. The organic phase was dried over Na2SO4, concentrated by rotary evaporation and dried under high vacuum. The residue (30 g) was used in the next reaction without further purification.

reactant | 4-bromobenzylsulfonyl chloride | 20.0 g | BrC1=CC=C(CS(=O)(=O)Cl)C=C1 | C7H6BrClO2S
reactant | 2,4-dimethoxybenzylamine | 24 ml | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | C-(4-Bromophenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide | BrC1=CC=C(C=C1)CS(=O)(=O)NCC1=C(C=C(C=C1)OC)OC | C16H18BrNO4S
